US07452893B2
Step 1: trans (4-Hydroxy-cyclohexyl)-carbamic acid tert-butyl ester
A mixture of 5 g of trans 4-aminocyclohexanol and 9.5 g of di-tert-butyl di-carbonate in 200 mL of THF was heated to reflux for 2 h at which time the mixture became homogeneous. The mixture was cooled and concentrated under reduced pressure. Drying under vacuum gave 9.34 g of product as a white crystalline solid; 1H NMR (400 MHz, CDCl3) 4.4 (br s, 2H), 3.6 (m, 1H), 3.4 (br s, 1H), 2.0 (t, 4H), 1.45 (s, 9H), 1.4 (dd, 2H), 1.2 (dd, 2H).

reactant | trans 4-aminocyclohexanol | 5 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | di-tert-butyl di-carbonate | 9.5 g | C(OC(C)(C)C)([O-])=O.C(OC(C)(C)C)([O-])=O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | trans (4-Hydroxy-cyclohexyl)-carbamic acid tert-butyl ester | 9.34 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)O)=O | C11H21NO3
